US07994185B2
Step A: 1,1-dimethylethyl 4-[4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate
1,1-dimethylethyl 4-(5-(2-chloro-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate (130 mg, 0.205 mmol) was dissolved into 1,4-dioxane (3 mL) and the solution was degassed for 10 min. PdCl2(dppf)-CH2Cl2 adduct (8.37 mg, 10.25 μmol) and dimethylzinc (0.205 mL, 0.410 mmol) were added the reaction mixture. The reaction mixture was stirred at 80° C. for 1 h. The reaction was quenched with methanol (3 mL) and water (10 mL) and extracted with EtOAc (3×). The extract was dried over Na2SO4, filtered, and concentrated. The residue was purified using column chromatography (40% to 100% EtOAc/hexane) to the title compound (100 mg). MS (ESI): 557.7 [M+1]+.

reactant | 1,1-dimethylethyl 4-(5-(2-chloro-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-4-methyl-1-piperidinecarboxylate | 0.205 mmol, 130 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=COC=C1)F | C28H29ClFN5O5S2
reactant | dimethylzinc | 0.410 mmol, 0.205 mL | C[Zn]C
catalyst | PdCl2(dppf) CH2Cl2 | 10.25 μmol, 8.37 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1,1-dimethylethyl 4-[4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate | FC1=C(C=CC=C1NS(=O)(=O)C1=COC=C1)C=1N=C(SC1C1=NC(=NC=C1)C)C1(CCN(CC1)C(=O)OC(C)(C)C)C | C29H32FN5O5S2
